US08557830B2
A mixture of 9-(4-methoxybenzyl)-6-(2-fluoropyridin-3-yl)-9H-purine (0.48 g, 1.4 mmol), 5-hydroxy-6-methylisoquinolin-1(2H)-one (0.25 g, 1.4 mmol) and cesium carbonate (1.1 g, 3.3 mmol) in NMP (5 mL) was stirred and heated in a Discover® model microwave reactor (CEM, Matthews, N.C.) at 130° C. for 60 min (100 watts, Powermax feature on, ramp time 1 min) The crude reaction mixture was partitioned between 3:1 CHCl3:IPA (100 mL) and water (150 mL). The aqueous phase was extracted with 3:1 CHCl3:IPA (50 mL). The combined organic extracts were washed with 1 N NaOH (2×75 mL), water (2×75 mL), satd NaCl (50 mL), dried over Na2SO4, filtered, and concentrated in vacuo to give a viscous brown oil which was chromatographed through a Redi-Sep® pre-packed silica gel column (80 g), eluting with a gradient of 1% to 7% MeOH in CH2Cl2, to provide 5-(3-(9-(4-methoxybenzyl)-9H-purin-6-yl)pyridin-2-yloxy)-6-methylisoquinolin-1(2H)-one (0.35 g, 51% yield) as a white solid. MS (ESI, pos. ion) m/z: 491.2 [M+H]+.

reactant | 9-(4-methoxybenzyl)-6-(2-fluoropyridin-3-yl)-9H-purine | 1.4 mmol, 0.48 g | COC1=CC=C(CN2C3=NC=NC(=C3N=C2)C=2C(=NC=CC2)F)C=C1 | C18H14FN5O
reactant | 5-hydroxy-6-methylisoquinolin-1(2H)-one | 1.4 mmol, 0.25 g | OC1=C2C=CNC(C2=CC=C1C)=O | C10H9NO2
reactant | cesium carbonate | 3.3 mmol, 1.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
product | 5-(3-(9-(4-methoxybenzyl)-9H-purin-6-yl)pyridin-2-yloxy)-6-methylisoquinolin-1(2H)-one | 0.35 g, 51% yield | COC1=CC=C(CN2C3=NC=NC(=C3N=C2)C=2C(=NC=CC2)OC2=C3C=CNC(C3=CC=C2C)=O)C=C1 | C28H22N6O3
